* Equivalent circuit model for output\golden_skin_model.sp
.SUBCKT golden_skin_model po1
Vsp1 po1 p1 0
Vsr1 p1 pr1 0
Rp1 pr1 0 50
Ru1 u1 0 50
Fr1 u1 0 Vsr1 -1
Fu1 u1 0 Vsp1 -1
Ry1 y1 0 1
Gy1 p1 0 y1 0 -0.02
Rx1 x1 0 1
Fxc1_2 x1 0 Vx2 21.2966862452282
Cx1 x1 xm1 7.05031418052554e-13
Vx1 xm1 0 0
Gx1_1 x1 0 u1 0 -6.64577570519491e-06
Rx2 x2 0 1
Fxc2_1 x2 0 Vx1 -28.4779493781356
Cx2 x2 xm2 7.05031418052554e-13
Vx2 xm2 0 0
Gx2_1 x2 0 u1 0 0.000189258064110984
Rx3 x3 0 1
Fxc3_4 x3 0 Vx4 17.6672324795956
Cx3 x3 xm3 4.32251790514625e-13
Vx3 xm3 0 0
Gx3_1 x3 0 u1 0 -9.8349935212762e-07
Rx4 x4 0 1
Fxc4_3 x4 0 Vx3 -124.436634800776
Cx4 x4 xm4 4.32251790514625e-13
Vx4 xm4 0 0
Gx4_1 x4 0 u1 0 0.000122383349707504
Rx5 x5 0 1
Fxc5_6 x5 0 Vx6 7.88590710753693
Cx5 x5 xm5 3.79214986462665e-13
Vx5 xm5 0 0
Gx5_1 x5 0 u1 0 -1.31013827882317e-07
Rx6 x6 0 1
Fxc6_5 x6 0 Vx5 -510.406357034206
Cx6 x6 xm6 3.79214986462665e-13
Vx6 xm6 0 0
Gx6_1 x6 0 u1 0 6.68702906105198e-05
Rx7 x7 0 1
Fxc7_8 x7 0 Vx8 180.696394812242
Cx7 x7 xm7 1.28261508761666e-13
Vx7 xm7 0 0
Gx7_1 x7 0 u1 0 -1.42643967851807e-07
Rx8 x8 0 1
Fxc8_7 x8 0 Vx7 -269.11889744828
Cx8 x8 xm8 1.28261508761666e-13
Vx8 xm8 0 0
Gx8_1 x8 0 u1 0 3.83881873559261e-05
Rx9 x9 0 1
Fxc9_10 x9 0 Vx10 0.56375691749247
Cx9 x9 xm9 6.05633329896393e-13
Vx9 xm9 0 0
Gx9_1 x9 0 u1 0 -8.09722697508116e-09
Rx10 x10 0 1
Fxc10_9 x10 0 Vx9 -8646.54609508562
Cx10 x10 xm10 6.05633329896393e-13
Vx10 xm10 0 0
Gx10_1 x10 0 u1 0 7.00130462824099e-05
Rx11 x11 0 1
Fxc11_12 x11 0 Vx12 9.54241223031309
Cx11 x11 xm11 2.27231168540142e-11
Vx11 xm11 0 0
Gx11_1 x11 0 u1 0 -0.00308124444961032
Rx12 x12 0 1
Fxc12_11 x12 0 Vx11 -0.427453520493449
Cx12 x12 xm12 2.27231168540142e-11
Vx12 xm12 0 0
Gx12_1 x12 0 u1 0 0.00131708878748683
Rx13 x13 0 1
Fxc13_14 x13 0 Vx14 1.17175156872206
Cx13 x13 xm13 1.0570925726791e-11
Vx13 xm13 0 0
Gx13_1 x13 0 u1 0 -2.35251576865538e-05
Rx14 x14 0 1
Fxc14_13 x14 0 Vx13 -46.9966791803542
Cx14 x14 xm14 1.0570925726791e-11
Vx14 xm14 0 0
Gx14_1 x14 0 u1 0 0.00110560428846221
Rx15 x15 0 1
Cx15 x15 0 6.48637955554257e-13
Gx15_1 x15 0 u1 0 -0.507048462770999
Rx16 x16 0 1
Cx16 x16 0 5.10464413802864e-12
Gx16_1 x16 0 u1 0 -0.405590832867308
Rx17 x17 0 1
Cx17 x17 0 7.43667194146326e-10
Gx17_1 x17 0 u1 0 -0.327423541192989
Rx18 x18 0 1
Cx18 x18 0 3.44334259355138e-09
Gx18_1 x18 0 u1 0 -0.523089883998978
Gyc1_1 y1 0 x1 0 1
Gyc1_2 y1 0 x2 0 1
Gyc1_3 y1 0 x3 0 -1
Gyc1_4 y1 0 x4 0 1
Gyc1_5 y1 0 x5 0 -1
Gyc1_6 y1 0 x6 0 1
Gyc1_7 y1 0 x7 0 1
Gyc1_8 y1 0 x8 0 -1
Gyc1_9 y1 0 x9 0 1
Gyc1_10 y1 0 x10 0 -1
Gyc1_11 y1 0 x11 0 -1
Gyc1_12 y1 0 x12 0 -1
Gyc1_13 y1 0 x13 0 -1
Gyc1_14 y1 0 x14 0 1
Gyc1_15 y1 0 x15 0 -1
Gyc1_16 y1 0 x16 0 1
Gyc1_17 y1 0 x17 0 1
Gyc1_18 y1 0 x18 0 1
.ENDS
